US05306827
Preparation of 2,3-Dibromo-4-(p-chlorophenyl)-5-[(trifluoromethyl)sulfinyl]pyrrole
A solution of 2,3-dibromo-4-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole (1.0 g, 0.0023 mol) in chloroform (10 mL) is treated with 3-chloroperoxybenzoic acid (0.4 g, 60%, 0.0023 mol) with stirring at 0° C., warmed to room temperature with stirring for two hours, washed with saturated sodium metabisulfite solution, saturated sodium hydrogen carbonate solution, water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow syrup. Flash chromatography of the syrup using silica gel and a 1:4 ethyl acetate/hexanes solution gives the title product as a yellow solid (0.4 g, mp 165.50°-167.5° C.) which is identified by 1HNMR, 19FNMR and 13CNMR spectral analyses.

reactant | 2,3-dibromo-4-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole | 0.0023 mol, 1.0 g | BrC=1NC(=C(C1Br)C1=CC=C(C=C1)Cl)SC(F)(F)F | C11H5Br2ClF3NS
reactant | 3-chloroperoxybenzoic acid | 0.0023 mol, 0.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,3-Dibromo-4-(p-chlorophenyl)-5-[(trifluoromethyl)sulfinyl]pyrrole | 0.4 g | BrC=1NC(=C(C1Br)C1=CC=C(C=C1)Cl)S(=O)C(F)(F)F | C11H5Br2ClF3NOS
